US04658037
N-Benzoyl-3-(2-furoyl)-2-oxindole-1-carboxamide
To 30 ml of N,N-dimethylformamide was added, with stirring, 2.8 g (10 mmole) of N-benzoyl-2-oxindole-1-carboxamide, followed by 2.9 g (24 mmole) of 4-(N,N-dimethylamino)pyridine. The mixture was cooled in an ice-bath and then to it was added, dropwise, with stirring, during 10 minutes, a solution of 1.6 g (12 mmole) of 2-furoyl chloride in 10 ml of N,N-dimethylformamide. Stirring was continued for 30 minutes and then the reaction mixture was poured into a mixture prepared from 250 ml of water and 8.5 ml of 3N hydrochloric acid. The resulting mixture was cooled in an ice-bath and the solid was removed by filtration. The solid was recrystallized from ca. 75 ml of acetic acid to give 2.94 g of the title compound as yellow-brown crystals, mp 190° C.

reactant | N-benzoyl-2-oxindole-1-carboxamide | 10 mmole, 2.8 g | C(C1=CC=CC=C1)(=O)NC(=O)N1C(CC2=CC=CC=C12)=O | C16H12N2O3
reactant | 2-furoyl chloride | 12 mmole, 1.6 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | water | 250 ml | O | H2O
reactant | hydrochloric acid | 3N, 8.5 ml | Cl | ClH
catalyst | 4-(N,N-dimethylamino)pyridine | 24 mmole, 2.9 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-Benzoyl-3-(2-furoyl)-2-oxindole-1-carboxamide | 2.94 g | C(C1=CC=CC=C1)(=O)NC(=O)N1C(C(C2=CC=CC=C12)C(=O)C=1OC=CC1)=O | C21H14N2O5
